US07094780B1
(b) 2,3,4,6-Tetrafluorobenzoic acid ethyl ester
2,3,4,6-Tetrafluorobenzoic acid (4.8 g, 24.7 mmol) in dichloromethane (80 mL) is cooled to 0° C. under a nitrogen atmosphere and treated with oxalyl chloride (11.2 mL, 128 mmol) followed by anhydrous N,N-dimethylformamide (2 drops). The mixture is warmed to room temperature and stirred for 2 hours. The solution is co-evaporated with benzene to yield an oil that is taken up in dichloromethane (80 mL), cooled to 0° C. under an inert atmosphere, and treated with anhydrous ethanol (15 mL, 258 mmol). After 5 hours at room temperature, the solution is poured into saturated NaHCO3 and extracted with chloroform. The organic phase is washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum to provide the title compound (3.3 g). This material is used without further purification. 1H NMR (CDCl3): δ 6.93–6.75 (m, 1H), 4.42 (q, 2H), 1.39 (t, 3H).

reactant | 2,3,4,6-Tetrafluorobenzoic acid | 24.7 mmol, 4.8 g | FC1=C(C(=O)O)C(=CC(=C1F)F)F | C7H2F4O2
reactant | oxalyl chloride | 128 mmol, 11.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 258 mmol, 15 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,3,4,6-Tetrafluorobenzoic acid ethyl ester | 3.3 g | C(C)OC(C1=C(C(=C(C=C1F)F)F)F)=O | C9H6F4O2
